datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C(C)C)(C(C)C)C(C)C)[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:72][C:61]([C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH+:11][CH2:10][CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)OC1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][Ge:63](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61](=[O:62])[O:82]CC)[S:71](C1=CC=CC=C1)=[O:72])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CCC[C:20](C)=[O:21].[CH2:10]=[N+:11]([O-:12])[O-:62]>>CCC[C:20](C)([CH2:10][N+:11](=[O:12])[O-:62])[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20]([C:31]3=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C4=CC=CC=C4)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C4=CC=CC=C4)[CH:45]=[CH:46]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12"
CO[C:94]1=[CH:93][CH:92]=[C:91]([C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([CH2:20][C:31]34C5(C6=CC=CC=C6)[Co-3:32]3(C#[O+])(C#[O+])(C#[O+])[Co-3:42]54(C#[O+])(C#[O+])C#[O+])[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1 10=20
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)[O:94][C:83]([N:12]1[C:11]([B-:72](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>CC(C)(C)[O:94][C:83]([N+:12]1=[C:11]([B-:72](F)(F)F)[CH:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N:42]=[C:41]23)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:10]1=[C:11]([O-:12])CC[O:72][C:61]1=[O:62].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C:10]1([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:11](=[O:12])CC[O:72][C:61]1=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=C[C:72]2=[C:71](C=C1)[N:10]=[CH:61][CH:62]=[CH:63]2.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>COC1=C[C:72]2=[C:71](C=C1)[N+:10]([CH:20]([C:21]1=[CH:22][N:23](C)C3=CC=CC=C31)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)=[CH:61][CH:62]=[CH:63]2 10=20;20,21=21,22;22,23=23"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CCC[O:63]1>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].C[Si:73](C)(C)[O+:12]=[C:11]1[CH:10]([S:20]C(F)(F)F)CCC[O:63]1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CC[O:72][P:61]([CH-:10][C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC>>CC[O:72][P:61]([CH:10]([CH:20]1CC[C:22]([O-:23])=[CH:21]1)[C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC 10=20;20,21=21,22;22,23=23"
